US07378418B2
Preparation of 2-(4-Chlorobenzyl)-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
To a solution of 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (0.4 g, 1.1 mmol), prepared as described in Example 1 in DMF (5 mL) was added K2CO3 (0.46 g, 3.3 mmol) and 4-chlorobenzyl bromide (0.28 g, 1.3 mmol). The reaction mixture was heated at 60° C. for 20 min. After this time, water (50 mL) was added to the reaction mixture and the resultant solid was collected by filtration. The final product (0.32 g, 60%) was obtained by purification using reverse phase preparative HPLC. MS (M+H)=481; 1H NMR (CDCl3): δ 8.18 (1H, s), 7.25-7.40 (10H, m), 7.08 (2H, d, J=10.0 Hz), 5.18 (2H, s).

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 1.1 mmol, 0.4 g | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | K2CO3 | 3.3 mmol, 0.46 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-chlorobenzyl bromide | 1.3 mmol, 0.28 g | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
reactant | water | 50 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(4-Chlorobenzyl)-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.32 g, 60% | ClC1=CC=C(CN2N=C3N(N=CC(=C3C3=CC=C(C=C3)Cl)C3=CC=C(C=C3)Cl)C2=O)C=C1 | C24H15Cl3N4O
